US05648493
c) trans-3-(2,2-Dimethyl-propylideneamino)-4-methylthio-pyrrolidine
1.32 g (10 mmol) of trans-3-amino-4-methylthiopyrrolidine are initially introduced into 5 ml of methanol, and 1.23 ml (11 mmol) of 97% strength pivalaldehyde are added dropwise, after which the temperature rises from 25° to 36° C. The mixture is subsequently stirred for a further 30 minutes, without cooling, the batch is then concentrated and the residue is distilled. Yield: 1.50 g (75% of theory), boiling point: 63° C./0.07 mbar.

reactant | trans-3-amino-4-methylthiopyrrolidine | 10 mmol, 1.32 g | N[C@@H]1CNC[C@H]1SC | C5H12N2S
reactant | pivalaldehyde | C(C(C)(C)C)=O | C5H10O
solvent | methanol | 5 ml | CO | CH4O
product | trans-3-(2,2-Dimethyl-propylideneamino)-4-methylthio-pyrrolidine | CC(C=N[C@@H]1CNC[C@H]1SC)(C)C | C10H20N2S
